////////////////////////////
// Single rram experiment //
// v0.1 28/09/2017        //
////////////////////////////

simulator lang=spectre
global 0 vdd! vss!

// Including parsed model. Original: '/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs'
// top_localmconly top_tt
// include "/opt/technology/tsmc40nm_18/models/spectre/toplevel.scs" section=top_localmconly
include "/opt/technology/tsmc40nm_18/tsmcN40/../models/spectre/toplevel.scs" section=top_localmconly

include "../ommit/arizona_rram_cells.scs"
include "../ommit/driver_characterization_circuitry/loads_subcircuit.scs"
include "driver_characterization_simulations.scs"

// Parameters
parameters

// simulation
+ p_sim_time=30n + p_write_length
// + p_max_step=10p
// + p_max_step=1000p
// temperature
+ p_T0=300
+ p_temp=(p_T0-273.15) // in celsius

// rram initial state
+ p_gamma0=16.5
// Roff->Ron For set (3.68M)
// + p_rram_gap_ini=1.367e-9
// + p_rram_gap_ini_0=0.2e-9
// + p_rram_gap_ini_1=0.1367e-9


+ p_rram_gap_ini_5=1.7e-9
+ p_rram_gap_ini_4=1.6e-9
+ p_rram_gap_ini_3=1.5e-9
+ p_rram_gap_ini_2=1.367e-9
+ p_rram_gap_ini_1=1.3e-9
+ p_rram_gap_ini_0=1.2e-9

// vdd
+ p_vdd=1.8
// write pulse
+ p_up=5n p_fall=5n p_delay=10n p_write_length=100n
// write amp nominal
+ p_v_set=1.8 // fom simulations
// + p_write_amp=2*p_v_set
// V_write
+ p_write_amp= p_level<p_total_levels ? 2*p_v_set : (p_clip<1 ? 0 : 2*p_v_set)

// level
+ p_level=1
+ p_total_levels=1024-1

// voltage supply
VDD      ( vdd!     0 ) vsource dc=p_vdd type=dc
VSS      ( vss!     0 ) vsource dc=0     type=dc

// write voltage (pulse)
V0 (n_write 0) vsource type=pulse delay=p_delay val0=0 val1=p_write_amp rise=p_up fall=p_fall width=p_write_length

////////////////////////////
// Write circuit
////////////////////////////

// gate control
v_aux (n_gate 0) bsource v= v(n_write)>0.5 ? p_vdd : 0

// 1T1R with parasitics
rram_0 (n_write n_control_0 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gamma0=p_gamma0 rram_gap_ini=p_rram_gap_ini_0
rram_1 (n_write n_control_1 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gamma0=p_gamma0 rram_gap_ini=p_rram_gap_ini_1
rram_2 (n_write n_control_2 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gamma0=p_gamma0 rram_gap_ini=p_rram_gap_ini_2
rram_3 (n_write n_control_3 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gamma0=p_gamma0 rram_gap_ini=p_rram_gap_ini_3
rram_4 (n_write n_control_4 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gamma0=p_gamma0 rram_gap_ini=p_rram_gap_ini_4
rram_5 (n_write n_control_5 n_gate)  rram_cell_1t1r rram_T0=p_T0 rram_gamma0=p_gamma0 rram_gap_ini=p_rram_gap_ini_5

// resistor loads
rl_0 (n_control_0) resistive_loads mux_level=p_level
rl_1 (n_control_1) resistive_loads mux_level=p_level
rl_2 (n_control_2) resistive_loads mux_level=p_level
rl_3 (n_control_3) resistive_loads mux_level=p_level
rl_4 (n_control_4) resistive_loads mux_level=p_level
rl_5 (n_control_5) resistive_loads mux_level=p_level
